US07429565B2
[1-Cyano-3-ethyl-5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-pent-3-enyl]-phosphonic acid
{1-Cyano-3-ethyl-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-pent-3-enyl}-phosphonic acid diethyl ester (19.5 mg, 0.035 mmol) was dissolved in a solution of 10% TFA/CH2Cl2 (2 mL) and stirred at room temperature for 10 minutes. The reaction mixture was dried under reduced pressure and purified by RP-HPLC to provide 9.5 mg (61%) of the desired product. This material was dissolved in DMF (0.5 mL) and DCM (0.5 mL) and TMSBr (27 μL, 0.2 mmol) and 2,6-lutidine (23 μL, 0.2 mmol) were added. The reaction solution was allowed stir at room temperature overnight before quenching with MeOH. The reaction mixture was dried under reduced pressure and the residue was purified by RP HPLC using a C18 column with a gradient of H2O, 0.1% TFA-acetonitrile, 0.1% TFA to provide 5.1 mg (65%) of the desired product as a white solid. 1H NMR (300 MHz, CD3OD) δ 1.10 (t,3H), 2.16 (s, 3H), 2.23-2.52 (m, 3H), 2.67 (m,1H), 3.05-3.20 (m, 1H), 3.48 (d, J=7.2, 2H), 3.81 (s, 3H), 5.26 (s, 2H), 5.43 (t, J=7.2 Hz, 1H) ppm; 31p (121.4 MHz, CD3OD) δ 14.18 ppm; MS (m/z) 394 [M−H]−, 396 [M+H]+.

reactant | {1-Cyano-3-ethyl-5-[6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-pent-3-enyl}-phosphonic acid diethyl ester | 0.035 mmol, 19.5 mg | C(C)OP(OCC)(=O)C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)OCC[Si](C)(C)C)CC)C#N | C27H42NO7PSi
solvent | TFA CH2Cl2 | 2 mL | C(=O)(C(F)(F)F)O.C(Cl)Cl
product | [1-Cyano-3-ethyl-5-(4-hydroxy-6-methoxy-7-methyl-3-oxo-1,3-dihydro-isobenzofuran-5-yl)-pent-3-enyl]-phosphonic acid | 9.5 mg, 61% | C(#N)C(CC(=CCC=1C(=C2C(OCC2=C(C1OC)C)=O)O)CC)P(O)(O)=O | C18H22NO7P
